US07893056B2
To a solution of crude (9aR)-octahydropyrazino[2,1-c][1,4]oxazine dihydrochloride (1.7185 g, 7.99 mmol) in DMF (40 mL) was added tris(1,1-dimethylethyl)2-(2,6-dichloro-5-fluoro-4-pyrimidinyl)-1,1,2-hydrazinetricarboxylate (3.97 g, 7.98 mmol) and N,N-diisopropylethylamine (4.60 mL, 26.41 mmol). The solution was stirred overnight and then diluted with Et2O (200 mL). The mixture was washed with water (2×100 mL), and the combined aqueous phase was extracted with a fresh portion of Et2O (100 mL). The combined organic phase was washed with a fresh portion of water (50 mL), and then dried over anhydrous Na2SO4. The mixture was filtered, concentrated in vacuo, and the residue was dissolved in DCM (200 mL) and dried over anhydrous Na2SO4. The mixture was filtered, and the solution was concentrated in vacuo. The residue was purified by gradient silica gel chromatography (0% to 100% EtOAc in hexanes; 1% Et3N) to afford tris(1,1-dimethylethyl)2-{2-chloro-5-fluoro-6-[(9aR)-hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl]-4-pyrimidinyl}-1,1,2-hydrazinetricarboxylate (4.34 g, 90%) as a white foam. LCMS: (M+H)+: 603.3.

reactant | (9aR)-octahydropyrazino[2,1-c][1,4]oxazine dihydrochloride | 7.99 mmol, 1.7185 g | Cl.Cl.C1OCCN2[C@@H]1CNCC2
reactant | tris(1,1-dimethylethyl)2-(2,6-dichloro-5-fluoro-4-pyrimidinyl)-1,1,2-hydrazinetricarboxylate | 7.98 mmol, 3.97 g | CC(C)(C)OC(=O)N(N(C(=O)OC(C)(C)C)C1=NC(=NC(=C1F)Cl)Cl)C(=O)OC(C)(C)C | C19H27Cl2FN4O6
reactant | N,N-diisopropylethylamine | 26.41 mmol, 4.60 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | Et2O | 200 mL | CCOCC | C4H10O
product | tris(1,1-dimethylethyl)2-{2-chloro-5-fluoro-6-[(9aR)-hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl]-4-pyrimidinyl}-1,1,2-hydrazinetricarboxylate | 4.34 g, 90% | CC(C)(C)OC(=O)N(N(C(=O)OC(C)(C)C)C1=NC(=NC(=C1F)N1C[C@@H]2COCCN2CC1)Cl)C(=O)OC(C)(C)C | C26H40ClFN6O7
